US07767675B2
Step 10. methyl 2-fluoro-4-[7-(quinolin-6-ylthio)imidazo[1,2-b][1,2,4]triazin-2-yl]benzoate
To a cooled (0° C.) mixture of (quinolin-6-ylthio)acetaldehyde (40.6 mg, 0.2 mmol) and D-proline (4.6 mg, 0.04 mmol) in chloroform (1.0 mL) was added N-chlorosuccinimide (26.7 mg, 0.2 mmol) with stirring. The mixture was stirred at 0° C. for 30 min, then gradually warmed to ambient temperature for 2 h. To the mixture was added methyl 4-(3-amino-1,2,4-triazin-6-yl)-2-fluorobenzoate (24.8 mg, 0.1 mmol). The reaction mixture was stirred for 1 h. The solvent was removed under reduced pressure. The residue was dissolved in isopropanol (2 mL) and heated to 100° C. overnight. After cooling, the mixture was filtered and the filtrate was purified by RP-HPLC (pH 10) to afford the desired product. LCMS: (M+H)=432.3.

reactant | (quinolin-6-ylthio)acetaldehyde | 0.2 mmol, 40.6 mg | N1=CC=CC2=CC(=CC=C12)SCC=O | C11H9NOS
reactant | D-proline | 0.04 mmol, 4.6 mg | N1[C@@H](C(=O)O)CCC1 | C5H9NO2
reactant | N-chlorosuccinimide | 0.2 mmol, 26.7 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | methyl 4-(3-amino-1,2,4-triazin-6-yl)-2-fluorobenzoate | 0.1 mmol, 24.8 mg | NC=1N=NC(=CN1)C1=CC(=C(C(=O)OC)C=C1)F | C11H9FN4O2
solvent | chloroform | 1.0 mL | C(Cl)(Cl)Cl | CHCl3
product | methyl 2-fluoro-4-[7-(quinolin-6-ylthio)imidazo[1,2-b][1,2,4]triazin-2-yl]benzoate | FC1=C(C(=O)OC)C=CC(=C1)C=1C=NC=2N(N1)C(=CN2)SC=2C=C1C=CC=NC1=CC2 | C22H14FN5O2S
